US04661501
To 6.4 g of 3-phenoxy-4-fluorobenzyl bromide was added 7 ml of triethylphosphite, and the mixture was stirred at 140° C. for seven hours. After cooling, 13.1 g of the reaction mixture was purified by column chromatography on silica gel (eluent: benzene) to give 6.3 g of diethyl 3-phenoxy-4-fluorobenzylphosphonate.

reactant | 3-phenoxy-4-fluorobenzyl bromide | 6.4 g | O(C1=CC=CC=C1)C=1C=C(CBr)C=CC1F | C13H10BrFO
reactant | triethylphosphite | 7 ml | C(C)OP(OCC)OCC | C6H15O3P
product | diethyl 3-phenoxy-4-fluorobenzylphosphonate | 6.3 g | O(C1=CC=CC=C1)C=1C=C(CP(OCC)(OCC)=O)C=CC1F | C17H20FO4P
